US06844362B2
Methyl 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-1H-indole-2-carboxylate
A suspension of methyl 5-{(2R)-2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]propyl}-1H-indole-2-carboxylate (Preparation 13, 0.38 g, 0.63 mmol) and 10% palladium on carbon (78 mg) in ethanol (20 ml) was stirred under an atmosphere of hydrogen (60 psi) at room temperature for 16 hours. The catalyst was filtered off through arbocel and the solvent removed in vacuo to give the title compound as a pale pink foam (316 mg), which was used without further purification.

reactant | methyl 5-{(2R)-2-[((2R)-2-[4-(benzyloxy)-3-(hydroxymethyl)phenyl]-2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)amino]propyl}-1H-indole-2-carboxylate | 0.63 mmol, 0.38 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)OC)C)O[Si](C)(C)C(C)(C)C)CO | C35H46N2O5Si
catalyst | palladium on carbon | 78 mg | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Methyl 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-1H-indole-2-carboxylate | 316 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)OC)C)C1=CC(=C(C=C1)O)CO | C28H40N2O5Si
